US04723002
(C) (E)-3-[1,4-Dihydro-4-oxo-5-(phenylmethoxy)-2-pyridinyl]-2-propenoic acid
(E)-3-[1,4-Dihydro-4-oxo-5-(phenylmethoxy)-2-pyridinyl]-2-propenoic acid, ethyl ester (1.5 g) and 0.29 g of potassium hydroxide were stirred in 30 ml of ethanol for two hours at 50° C. After evaporating the solvent, the residue was dissolved in 100 ml of water and filtered. Hydrochloric acid (2N) was added to the filtrate until pH 5 was reached; crystals of the title compound separated. The crystals were filtered and washed with water and dried in vacuo (yield: 1.14 g).

reactant | (E)-3-[1,4-Dihydro-4-oxo-5-(phenylmethoxy)-2-pyridinyl]-2-propenoic acid, ethyl ester | 1.5 g | O=C1C=C(NC=C1OCC1=CC=CC=C1)/C=C/C(=O)OCC | C17H17NO4
reactant | potassium hydroxide | 0.29 g | [OH-].[K+]
solvent | ethanol | 30 ml | C(C)O | C2H6O
product | (E)-3-[1,4-Dihydro-4-oxo-5-(phenylmethoxy)-2-pyridinyl]-2-propenoic acid | O=C1C=C(NC=C1OCC1=CC=CC=C1)/C=C/C(=O)O | C15H13NO4
